data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3875,4434,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,16.49714978973471,-28.57648440019383
1400,1541,[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[CH:5]=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[C:11](=[O:12])[NH:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]([C:7](=[O:8])[NH:9][CH3:10])([C:11](=[O:12])[NH:13][CH3:14])[CH:24]([C:25]#[N:26])[N:22]([CH3:23])[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,18.379424738899647,-22.245831179525915
1314,1441,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[NH:23][CH:24]2[C:25]#[N:26],water,298.15,20.347544284034782,-17.168828182868797
3885,4445,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]2([CH3:17])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[O:18]2,water,298.15,28.256762061314927,6.7779670043211295
4274,4888,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]1([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,26.17853330624785,-10.835744293004382
3291,3730,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[N:7]#[C:8][C:9](=[NH+:10][O-:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[O:11][NH:10][C:9]1([C:8]#[N:7])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,26.20566012216605,0.5333266690216598
561,615,[CH2:1]=[C:2]([O:3][CH3:4])[O:5][CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12](=[O:13])[NH:14][CH3:15])[N+:16]([CH3:17])=[C:18]([CH3:19])[C:20]#[N:21]>>[CH2:1]1[C:2]([O:3][CH3:4])([O:5][CH3:6])[C:18]([CH3:19])([C:20]#[N:21])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,31.31017394236537,-26.87224669117683
776,839,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[NH+:14]=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:15]([CH3:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:14][C:12]3([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,23.85579878578663,-34.17556366016201
1617,1787,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][N+:19]([CH3:20])=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]#[N:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]#[N:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]([CH3:20])[C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,14.894977412455676,-57.48995195699314
1634,1805,[CH3:20][O:21][C:22](=[O:23])[c-:24]1[o+:25][n:26][o:27][c:28]1=[O:29].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]1([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[C:13]2([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[C:24]2([C:22]([O:21][CH3:20])=[O:23])[O:25][N:26]1[O:27][C:28]2=[O:29],water,298.15,16.15100917281855,-17.423173150528182
3878,4437,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,17.943552705234737,-31.173225621572648
2971,3320,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][CH:6]=[N+:7]([CH3:8])[C-:9]([C:10]#[N:11])[C:12]#[N:13]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:10]#[N:11])([C:12]#[N:13])[N:7]([CH3:8])[CH:6]1[CH3:5],water,298.15,25.79100372980843,-13.921864590976265
